US06936632B2
b) Methyl 3-(4-fluorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizine-1-carboxylate
Methyl phenylpropiolate (methyl dehydrocinnamate (0.96 g, 6 mmol)) is dissolved in acetic anhydride (14 ml) and brought to the boiling temperature of acetic anhydride in a hot oil bath (140° C.). The total amount of 1-(4-fluorobenzoyl)pyrrolidine-2-carboxylic acid (1.42 g, 6 mmol) is added, and the thoroughly mixed solution is refluxed (1 28° C.) for 20 h with stirring. After standing for 4 hours and cooling to RT, a pure crystalline solid deposits (TLC: Al2O3, diisopropyl ether, Rf 0.7). The crystals are filtered off with suction, washed with water (20 ml) and finally with isopropyl ether (10 ml). The dried crystals weigh 650 mg (32.5% of theory)

reactant | Methyl phenylpropiolate | 6 mmol, 0.96 g | C1(=CC=CC=C1)C#CC(=O)OC | C10H8O2
reactant | 1-(4-fluorobenzoyl)pyrrolidine-2-carboxylic acid | 6 mmol, 1.42 g | FC1=CC=C(C(=O)N2C(CCC2)C(=O)O)C=C1 | C12H12FNO3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic anhydride | 14 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 3-(4-fluorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizine-1-carboxylate | FC1=CC=C(C=C1)C1=C(C(=C2CCCN12)C(=O)OC)C1=CC=CC=C1 | C21H18FNO2
